* C:\UTN\2024\TC2\Mi_Repo\TC2\TS6\Spice\TS6_ACTIVADO.asc
R128 GIC1 Vi {Ra/a}
C1 GIC1 0 7.2343µ
R2 GIC2 VoGIC1 {Rb/a1}
C2 GIC2 0 8.011µ
R3 GIC3 VoGIC2 {Rc/a2}
C3 GIC3 0 6.5174µ
V1 Vi 0 AC 1
R1 GIC1 0 {Ra/(1-a)}
XU1 N001 GIC1 VoGIC1 opamp Aol=100K GBW=10Meg
XU2 N001 N003 N002 opamp Aol=100K GBW=10Meg
R4 N002 GIC1 1.25
R5 VoGIC1 N001 1
R6 N003 VoGIC1 1
C4 N001 N002 7.2343µ
R7 N003 0 .8
XU4 N004 GIC2 VoGIC2 opamp Aol=100K GBW=10Meg
XU5 N004 N006 N005 opamp Aol=100K GBW=10Meg
R8 N005 GIC2 1.25
R9 VoGIC2 N004 1
R10 N006 VoGIC2 1
C5 N004 N005 8.011µ
R11 N006 0 .8
R12 GIC2 0 {Rb/(1-a1)}
R13 GIC3 0 {Rc/(1-a2)}
XU3 N007 GIC3 VoGIC3 opamp Aol=100K GBW=10Meg
XU6 N007 N009 N008 opamp Aol=100K GBW=10Meg
R14 N008 GIC3 1.25
R15 VoGIC3 N007 1
R16 N009 VoGIC3 1
C6 N007 N008 6.5174µ
R17 N009 0 .8
.inc opamp.sub
.ac dec 1000 10k 100k
.param a=0.99999999999999
.param Ra=7.98
.param a1=0.99999999999999
.param Rb=16
.param a2=0.99999999999999
.param Rc=16
.backanno
.end
